US07632840B2
Sodium borohydride (0.046 g, 1.21 mmol) was added to a stirred suspension of 4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazoline-6-carbaldehyde (0.20 g, 0.604 mmol) in methanol (1 ml) at 0° C., over period of 5 minutes. The reaction mixture was allowed to stir at room temperature for 10 minutes and concentrated to dryness. The resulting grey solid was washed with water (2×1 ml) and dried to a constant weight under high vacuum at 40° C. to afford {4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methanol (0.2 g, 100%) as a grey solid; Mass Spectrum: (M+H)+ 334.

reactant | Sodium borohydride | 1.21 mmol, 0.046 g | [BH4-].[Na+]
reactant | 4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazoline-6-carbaldehyde | 0.604 mmol, 0.20 g | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)C=O)OC)F | C16H11ClFN3O2
solvent | methanol | 1 ml | CO | CH4O
product | {4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methanol | 0.2 g, 100% | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CO)OC)F | C16H13ClFN3O2
